US06953792B2
4-Oxo-1-phenyl-N-{[3,5-bis(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide
Prepared from 4-oxo-1-phenylcyclohexanecarboxylic acid (Description 2) and 3,5-bis(trifluoromethyl)benzylamine according to the method of Example 177. m/z (ES+) 444 (M+1).

reactant | 4-oxo-1-phenylcyclohexanecarboxylic acid | O=C1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C13H14O3
reactant | 3,5-bis(trifluoromethyl)benzylamine | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
product | 4-Oxo-1-phenyl-N-{[3,5-bis(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide | O=C1CCC(CC1)(C(=O)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C22H19F6NO2
